US05439917
3-(Cyanomethyl)-2-phenylpyrrolo[2,3-b]pyridine (0.35 g, 1.5 mmol) and phenacyl bromide (0.36 g) in acetonitrile (5 ml) was refluxed for 18 h. The resulting solid product was isolated by filtration and washed with diethyl ether to give pure 3-(cyanomethyl)-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine hydrobromide (0.46 g, 70%).

reactant | 3-(Cyanomethyl)-2-phenylpyrrolo[2,3-b]pyridine | 1.5 mmol, 0.35 g | C(#N)CC1=C(NC2=NC=CC=C21)C2=CC=CC=C2 | C15H11N3
reactant | phenacyl bromide | 0.36 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(cyanomethyl)-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine hydrobromide | 0.46 g, 70% | Br.C(#N)CC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C23H17N3O.BrH/c24-14-13-19-20-12-7-15-26(16-21(27)17-8-3-1-4-9-17)23(20)25-22(19)18-10-5-2-6-11-18;/h1-12,15H,13,16H2;1H
